US05652271
A stirred mixture of 1-chloro-4-(dimethylamino)-butane hydrochloride (115 g), thiourea (51.9 g) and ethanol (500 ml) was heated under reflux for 24 hours then allowed to stand at 4° C. for 24 hours. The resulting solid was collected by filtration, washed with ether, and dried in vacuo at ambient temperature for 24 hours to give S-[4-(dimethylamino)butyl]isothiourea dihydrochloride as an off-white solid (140 g), m.p. 179°-182° C.

reactant | 1-chloro-4-(dimethylamino)-butane hydrochloride | 115 g | Cl.ClCCCCN(C)C
reactant | thiourea | 51.9 g | NC(=S)N | CH4N2S
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | S-[4-(dimethylamino)butyl]isothiourea dihydrochloride | 140 g | Cl.Cl.CN(CCCCSC(N)=N)C | InChI=1S/C7H17N3S.2ClH/c1-10(2)5-3-4-6-11-7(8)9;;/h3-6H2,1-2H3,(H3,8,9);2*1H
